US06143760
Diethyl (2-benzylamino-5-pyridylaminomethylene)malonate (2.23 g) was added to diphenyl ether (10 mL) preheated to 230° C. Heating was continued for 0.5 h, the reaction flask removed from the oil bath, and the mixture allowed to cool to ambient temperature. The product was triturated with 1:1 ether:hexanes, collected, rinsed with ether, and dried to give 1.47 9 of ethyl 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylate as a brown solid.

reactant | Diethyl (2-benzylamino-5-pyridylaminomethylene)malonate | 2.23 g | C(C1=CC=CC=C1)NC1=NC=C(C=C1)NC=C(C(=O)OCC)C(=O)OCC | C20H23N3O4
solvent | diphenyl ether | 10 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylate | C(C1=CC=CC=C1)NC=1N=C2C(C(=CNC2=CC1)C(=O)OCC)=O | C18H17N3O3
